US09388185B2
Step 2. 2-(4-{2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazin-6-yl}-1H-pyrazol-1-yl)-N,N-dimethylacetamide
To a stirred solution of {4-[2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl]-1H-pyrazol-1-yl}acetic acid (10.0 mg, 18.3 μmol) in N,N-dimethylformamide (1.0 mL), N,N-dimethylamine (2.0 M in THF, 13.7 μL, 27.4 μmol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (8.33 mg, 21.9 mmol) and N,N-diisopropylethylamine (12.7 μL, 73.0 μmol) were added sequentially at ambient temperature. After 1 hour, the reaction was quenched with saturated aqueous NH4Cl, extracted with methylene chloride. The combined organic layers were dried over MgSO4, and then concentrated. The residue was dissolved in methanol (2.0 mL) and potassium carbonate (5.05 mg, 36.5 μmol) was added. The reaction mixture was then warmed up to 60° C. After 2 hours, the crude mixture was cooled to ambient temperature and purified on RP-HPLC (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.05% TFA, at flow rate of 30 mL/min) to give the desired product (2.8 mg) as its TFA salt. LCMS calculated for C23H27N6O3 (M+H)+: m/z=435.2. Found: 435.3.

reactant | {4-[2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl]-1H-pyrazol-1-yl}acetic acid | 18.3 μmol, 10.0 mg | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)N(C(=C2)C=2C=NN(C2)CC(=O)O)S(=O)(=O)C2=CC=CC=C2 | C27H25N5O6S
reactant | N,N-dimethylamine | 27.4 μmol, 2.0 M, 13.7 μL | CNC | C2H7N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 21.9 mmol, 8.33 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 73.0 μmol, 12.7 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | potassium carbonate | 36.5 μmol, 5.05 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 2-(4-{2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazin-6-yl}-1H-pyrazol-1-yl)-N,N-dimethylacetamide | 2.8 mg | COC=1C=C(C=C(C1)OC)CCC=1N=C2C(=NC1)NC(=C2)C=2C=NN(C2)CC(=O)N(C)C | C23H26N6O3
